US09023847B2
180. 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-bromo-phenyl)-ethyl]-amide
The title compound was prepared in an analogous manner as 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide using 4-bromophenethylamine instead of benzylamine and obtained in 20% yield (HPLC: 60%, RT: 6.81 min). 1H NMR (DMSO-d6) 11.98 (br s, 1H), 11.37 (s, 1H), 8.47 (d, J=5.5 Hz, 1H), 8.38 (s, 1H), 8.32 (t, J=5.5 Hz, 1H), 7.75 (d, J=5.1 Hz, 1H), 7.50-7.47 (m, 2H), 7.37 (dd, J=3.3, 2.2 Hz, 1H), 7.25-7.21 (m, 2H), 6.45 (dd, J=3.6, 1.8 Hz, 1H), 3.54-3.47 (m, 2H), 2.85 (t, J=7.0 Hz, 2H); MS (m/z) 442 [M+H]+.

reactant | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C18H15N5OS
reactant | 4-bromophenethylamine | BrC1=CC=C(CCN)C=C1 | C8H10BrN
product | 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-bromo-phenyl)-ethyl]-amide | 20% yield | BrC1=CC=C(C=C1)CCNC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C19H16BrN5OS
